US06683231B2
CPL enzyme assays were conducted as follows. The basic reaction mixture (final volume, 500 μl) contained 50 mM Tris pH 8.0 (at 37° C.), 10 mM EDTA, 200 mM NaCl, and 150 μM of purified barium chorismate (Siebert et al. Microbiology 140:897-904 (1994)). Following a 5-min incubation period at 37° C., reactions were initiated with tobacco leaf extract that contained 50 μg of protein. Reactions were terminated after 2 min at 37° C. with 0.3 ml of 0.75 M sodium acetate (pH 4), and the amount of pHBA that was produced in the reaction was determined. To monitor the recovery of product, each tube received 9,500 dpm of [14C]-labeled pHBA (55 mCi/mmol) as an internal standard. The mixtures were extracted with 1 ml of H2O-saturated ethyl acetate, and the organic phase was collected and taken to dryness. The amount of pHBA was then quantitatively determined by reverse phase HPLC, using the exact same column and conditions that were described in Example 9. The peak corresponding to pHBA was collected and the amount of radioactivity was determined by liquid scintillation counting. Values reported below for CPL enzyme activity are expressed as pkats per mg protein, and have been corrected for recovery of the internal standard and the small amount of pHBA that is generated from chorismate through spontaneous decomposition (Siebert et al., Plant Physiol. 112:811-819 (1996)).

reactant | Tris | 50 mM, pH 8.0 | C(C(CO)(CO)N)O | C4H11NO3
reactant | EDTA | 10 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | NaCl | 200 mM | [Na+].[Cl-]
reactant | barium chorismate | 150 μM | C=C(C(=O)[O-])O[C@@H]1C=C(C=C[C@H]1O)C(=O)[O-].[Ba+2]
product | pHBA | C1=CC(=CC=C1C(=O)O)O | C7H6O3
